US06291530B1
To a solution of N,N-diethyl (E)-3-[3-allyl-4-(1-phenylethoxy)-phenyl]-but-2-enamide (2.61 g, 6.92 mmol) and Wilkinson's catalyst (tris(triphenylphosphine)rhodium (I) chloride, 64 mg, 0.069 mmol) in THF(40 mL) at 0° is added a 1.0 M solution of catecholborane in THF (7.62 mL, 7.62 mmol), via syringe. After stirring for 3 hours at 0°, the solution is quenched with methanol (15 mL), followed by addition of a solution 30% hydrogen peroxide (1.94 mL) in 3 M NaOH (18 mL). The solution is then warmed to room temperature over 3 hours. The solution is concentrated to 25 mL in vacuo, and the residue is taken up in H2O (100 ML) and extracted with ether (3×50 mL). The combined organic phase is washed with water (1×50 mL) and brine (1×50 mL), dried over MgSO4, and concentrated in vacuo. Chromatography (silica, 4:1 EtOAc/hexane) yields N,N-diethyl (E)-3-[3-(3-hydroxypropyl)4-(1-phenylethoxy)-phenyl]-but-2-enamide.

reactant | N,N-diethyl (E)-3-[3-allyl-4-(1-phenylethoxy)-phenyl]-but-2-enamide | 6.92 mmol, 2.61 g | C(C)N(C(\C=C(/C)\C1=CC(=C(C=C1)OC(C)C1=CC=CC=C1)CC=C)=O)CC | C25H31NO2
reactant | catecholborane | [B]1OC2=CC=CC=C2O1 | C6H4BO2
catalyst | Wilkinson's catalyst | 0.069 mmol, 64 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 7.62 mmol, 7.62 mL | C1CCOC1 | C4H8O
product | N,N-diethyl (E)-3-[3-(3-hydroxypropyl)4-(1-phenylethoxy)-phenyl]-but-2-enamide | C(C)N(C(\C=C(/C)\C1=CC(=C(C=C1)OC(C)C1=CC=CC=C1)CCCO)=O)CC | C25H33NO3
